US08404684B2
AC3) 1-Bromo-1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one
Bromine (1.46 ml, 28.5 mmol) is added to a rapidly stirred cooled (5-10° C.) solution of 1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one (7.0 g, 35 mmol) in dioxane (100 ml) over 30 minutes. The reaction is allowed to warm to room temperature and the solvent is removed in vacuo to yield the titled compound which is used immediately in the next step.

reactant | Bromine | 28.5 mmol, 1.46 ml | BrBr | Br2
reactant | 1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one | 35 mmol, 7.0 g | CC1=CC(=NC(=N1)SC)CC(C)=O | C9H12N2OS
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Bromo-1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one | BrC(C(C)=O)C1=NC(=NC(=C1)C)SC | C9H11BrN2OS
